US04039551
In the manner given in Example 1, N-hydroxyphthalimide and triethylamine in dimethylacetamide is treated with 8-chloro-6-(o-chlorophenyl)-1-(chloromethyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine to give 8-chloro-6-(o-chlorophenyl)-1-[(phthalimidooxy)methyl]-4H-s-triazolo[4,3-a][1,4]benzodiazepine.

reactant | N-hydroxyphthalimide | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | 8-chloro-6-(o-chlorophenyl)-1-(chloromethyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine | ClC=1C=CC2=C(C(=NCC=3N2C(=NN3)CCl)C3=C(C=CC=C3)Cl)C1 | C17H11Cl3N4
solvent | dimethylacetamide | CC(=O)N(C)C | C4H9NO
product | 8-chloro-6-(o-chlorophenyl)-1-[(phthalimidooxy)methyl]-4H-s-triazolo[4,3-a][1,4]benzodiazepine | ClC=1C=CC2=C(C(=NCC=3N2C(=NN3)CON3C(C=2C(C3=O)=CC=CC2)=O)C2=C(C=CC=C2)Cl)C1 | C25H15Cl2N5O3
